US07728003B2
Step E. 8-Indan-5-yl-2-methanesulfonyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester
To a solution of 8-indan-5-yl-2-methylsulfanyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (0.3 g, 0.79 mmol) in 5 mL of CH2Cl2, was added 3-chloroperoxybenzoic acid (m-CPBA, 69.5%, 431 mg, 1.73 mmol) portionwise. The solution was stirred at room temperature for 3 hours. An aqueous solution of 10% sodium thiosulfate was added to quench the reaction. After 30 minutes saturated sodium bicarbonate solution was added, and the aqueous solution was extracted with CH2Cl2. The combined CH2Cl2 fractions were washed with brine and dried over Na2SO4. Removal of the solvent and chromatography on silica, eluting with EtOAc/hexanes (1:3-1:1.6, v/v) gave 0.22 g (67%) of the title compound as an off-white solid. 1H NMR (300 MHz, CDCl3) δ (ppm): 9.75 (s, 1H), 8.70 (s, 1H), 7.39 (d, J=7.8 Hz, 1H), 7.24 (s, 1H), 7.16 (d, J=7.8 Hz, 1H), 4.38 (q, 2H), 3.19 (s, 3H), 3.00 (m, 4H), 2.10 (m, 2H), 1.40 (t, 3H).

reactant | 8-indan-5-yl-2-methylsulfanyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 0.79 mmol, 0.3 g | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)SC)N(C1)C=1C=C2CCCC2=CC1)=O | C20H19N3O3S
reactant | 3-chloroperoxybenzoic acid | 1.73 mmol, 431 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 8-Indan-5-yl-2-methanesulfonyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 0.22 g, 67% | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)S(=O)(=O)C)N(C1)C=1C=C2CCCC2=CC1)=O | C20H19N3O5S
